US06660744B1
A mixture of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.86 g, 0.0033 mol), tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate (0.7 g, 0.0033 mol) and cesium carbonate (1.1 g, 0.0033 mol) in anhydrous N,N-dimethylformamide (30 mL) was stirred at 60° C. for 18 hours. The solvent was removed under reduced pressure. The residue was partitioned between water and dichloromethane (200 mL). The organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was triturated with dichloromethane, and the solid was filtered to give tert-butyl 4-[(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl]-4-hydroxy-1-piperidinecarboxylate (0.66 g, 0.0014 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 8.7 min. MS: MH+ 475.

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0033 mol, 0.86 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 0.0033 mol, 0.7 g | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
reactant | cesium carbonate | 0.0033 mol, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-[(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl]-4-hydroxy-1-piperidinecarboxylate | 0.0014 mol, 0.66 g | NC1=C2C(=NC=N1)N(N=C2I)CC2(CCN(CC2)C(=O)OC(C)(C)C)O | C16H23IN6O3
